US07153854B2
To a suspension of magnesium chloride (1.33 g) in dichloromethane (40 mL) was added 1-tert-butyl 7-ethyl 2-acetylheptanedioate (4.0 g) at ambient temperature under N2. To this mixture was added dropwise pyridine (2.26 mL) in an ice-water bath. Then the mixture was stirred at ambient temperature for 40 minutes. To the reaction mixture was added a solution of 3-cyanobenzoyl chloride (3.01 g) in dichloromethane (6 mL) dropwise over 2 minutes. The reaction mixture was stirred at ambient temperature for 2 hours. To the mixture was added 1N hydrogen chloride and ethyl acetate in an ice-water bath. The organic layer was washed with 1N hydrogen chloride, water, and brine, dried over magnesium sulfate, and evaporated in vacuo to give a solid. The residue was purified by flash silica gel chromatography (silica gel, 300 mL) eluting with hexane-ethyl acetate=10-1, 8-1, 5-1, and 3-1 to give 1-tert-butyl 7-ethyl 2-acetyl-2-(3-cyanobenzoyl)heptanedioate (4.23 g, 72.9%) as colorless oil.

reactant | magnesium chloride | 1.33 g | [Cl-].[Mg+2].[Cl-]
reactant | 1-tert-butyl 7-ethyl 2-acetylheptanedioate | 4.0 g | C(C)(=O)C(C(=O)OC(C)(C)C)CCCCC(=O)OCC | C15H26O5
reactant | 3-cyanobenzoyl chloride | 3.01 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 2.26 mL | N1=CC=CC=C1 | C5H5N
product | 1-tert-butyl 7-ethyl 2-acetyl-2-(3-cyanobenzoyl)heptanedioate | 4.23 g, 72.9% | C(C)(=O)C(C(=O)OC(C)(C)C)(CCCCC(=O)OCC)C(C1=CC(=CC=C1)C#N)=O | C23H29NO6
